US04506078
Preparation of trans-6-chloro-β-dimethylamino-2-nitrostyrene
A 2-liter flask fitted with a 30-cm. vacuum-jacketed Vigreux column, downward condenser, and receiver with a nitrogen inlet was charged with 171.6 g. of 6-chloro-2-nitrotoluene, 500 ml. of dimethylformamide, and 149.0 g. of N,N-dimethylformamide dimethyl acetal and then heated to 140°-156° for 13 hours. The pot temperature was maintained by continuous distillation of the methanol as it was formed.

reactant | 6-chloro-2-nitrotoluene | ClC1=CC=CC(=C1C)[N+](=O)[O-] | C7H6ClNO2
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | N,N-dimethylformamide dimethyl acetal | COC(N(C)C)OC | C5H13NO2
solvent | methanol | CO | CH4O
product | trans-6-chloro-β-dimethylamino-2-nitrostyrene | ClC1=CC=CC(=C1/C=C/N(C)C)[N+](=O)[O-] | C10H11ClN2O2
